US07790770B2
To a solution of (R)-1-(5-cyanopentyl)-3-(1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)urea, prepared by the method described in Procedure 12 (45 mg, 0.080 mmol) in DME (161 μL) at rt was added TMSN3 (0.013 mL, 0.16 mmol), followed by n-Bu2SnO2 (2 mg, 0.008 mmol). The reaction mixture was heated at 150° C. for 10 min under microwave irradiation. An additional amount of TMSN3 (0.013 mL, 0.16 mmol) and n-Bu2SnO2 (2 mg, 0.008 mmol) was added, and the reaction mixture was heated at 150° C. for an additional 10 min under microwave irradiation. The reaction mixture was concentrated and the residue was dissolved in MeOH and purified by preparative HPLC (Phenoma Luna AXIA 10A, C18, eluting with MeCN/H2O containing 0.1% TFA, monitoring at 220 nm) to provide (R)-1-(5-(2H-tetrazol-5-yl)pentyl)-3-(1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)urea (23 mg, 47% yield) as a white solid. 1H NMR (500 MHz, MeOH-d4) δ 7.18-6.89 (m, 11H), 6.71 (d, J=5 Hz, 2H), 6.37-6.16 (m, 1H), 3.93 (d, J=15 Hz, 1H), 3.81 (d, J=15.0 Hz, 1H), 3.08 (t, J=5 Hz, 2H), 2.94 (t, J=5 Hz, 2H), 1.83-1.76 (m, 2H), 1.55-1.48 (m, 2H), 1.41-1.35 (m, 2H); LC/MS: RT=3.736 min [M+H] 607.3 (Phenomenex Luna C18 column, 4.6×50 mm eluting with 10-90% MeCN/H2O over 4 minutes containing 0.1% NH4OAc; 4 mL/min, monitoring at 220 nm).

reactant | (R)-1-(5-cyanopentyl)-3-(1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)urea | C(#N)CCCCCNC(=O)N[C@](CC1=CC=CC=C1)(C1=CC=C(C=C1)F)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F | C29H27F6N3O2
reactant | TMSN3 | 0.16 mmol, 0.013 mL | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | TMSN3 | 0.16 mmol, 0.013 mL | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | DME | 161 μL | COCCOC | C4H10O2
product | (R)-1-(5-(2H-tetrazol-5-yl)pentyl)-3-(1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)urea | 23 mg, 47% yield | N=1NN=NC1CCCCCNC(=O)N[C@](CC1=CC=CC=C1)(C1=CC=C(C=C1)F)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F | C29H28F6N6O2
